US07345056B2
9-(4-Chloro-benzenesulfonyl)-7-oxo-3,9-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester (5.08 g, 12.2 mmol) was dissolved in THF/ethanol (40 mL, 1/1, v/v). Ethyl formate (9.84 mL, 122.4 mmol) was added followed by sodium ethoxide (12 mL of 21% solution in ethanol). The resulting mixture was stirred at room temperature for 30 minutes then heated to 60° C. for 30 minutes after which the solution was cooled back to room temperature and quenched by the addition of saturated aqueous NH4Cl (10 mL). The resulting mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were dried (Na2SO4), filtered and concentrated under vacuum to yield 5.43 g (quantitative) of 9-(4-chloro-benzenesulfonyl)-6-hydroxymethylene-7-oxo-3,9-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester as a yellow oil. Retention time (min)=2.114, method [1], MS(ESI) 465.0 (M+Na).

reactant | 9-(4-Chloro-benzenesulfonyl)-7-oxo-3,9-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | 12.2 mmol, 5.08 g | C(C)(C)(C)OC(=O)N1CC2CC(CC(C1)N2S(=O)(=O)C2=CC=C(C=C2)Cl)=O | C18H23ClN2O5S
reactant | Ethyl formate | 122.4 mmol, 9.84 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | 12 mL | [O-]CC.[Na+]
solvent | THF ethanol | C1CCOC1.C(C)O
product | 9-(4-chloro-benzenesulfonyl)-6-hydroxymethylene-7-oxo-3,9-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | 5.43 g | C(C)(C)(C)OC(=O)N1CC2CC(C(C(C1)N2S(=O)(=O)C2=CC=C(C=C2)Cl)=CO)=O | C19H23ClN2O6S
